US06821967B2
9-{4-[cis-2,6-dimethyl-4-(1-methyl-1H-benzimidazol-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide
Prepared analogously to Example 42 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide and 2-(cis-3,5-dimethyl-piperazin-1-yl)-1-methyl-1H-benzimidazole.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCBr)C=C1 | C25H23BrFNO
reactant | 2-(cis-3,5-dimethyl-piperazin-1-yl)-1-methyl-1H-benzimidazole | C[C@@H]1CN(C[C@@H](N1)C)C1=NC2=C(N1C)C=CC=C2 | C14H20N4
product | 9-{4-[cis-2,6-dimethyl-4-(1-methyl-1H-benzimidazol-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCN2[C@H](CN(C[C@H]2C)C2=NC3=C(N2C)C=CC=C3)C)C=C1 | C39H42FN5O
